US08461179B1
A suspension of 1-(4-bromo-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea (55 mg, 0.088 mmol) in MeCN (4 mL) was treated with 0.1N HCl (1.81 mL, 0.181 mmol), frozen and lyophilized to afford 1-(4-bromo-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea dihydrochloride (60 mg, 93% yield). MS (ESI) m/z: 622.2 [M+H]+.

reactant | 1-(4-bromo-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea | 0.088 mmol, 55 mg | BrC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=CC=C1)CN1CCN(CC1)C)F | C30H33BrFN7O2
reactant | HCl | 0.181 mmol, 0.1N, 1.81 mL | Cl | ClH
solvent | MeCN | 4 mL | CC#N | C2H3N
product | 1-(4-bromo-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea dihydrochloride | 60 mg, 93% yield | Cl.Cl.BrC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=CC=C1)CN1CCN(CC1)C)F | InChI=1S/C30H33BrFN7O2.2ClH/c1-4-39-27-16-28(33-2)34-17-20(27)13-23(29(39)40)22-14-26(25(32)15-24(22)31)36-30(41)35-21-7-5-6-19(12-21)18-38-10-8-37(3)9-11-38;;/h5-7,12-17H,4,8-11,18H2,1-3H3,(H,33,34)(H2,35,36,41);2*1H
